US05563136
Methyl (E)-3-amino-alpha-hydroxyiminophenylacetate can be obtained in the following manner: the reaction is carried out as in Example 9 for the preparation of ethyl (Z)-3-amino-alpha-tert-butoxycarbonylmethoxyimino-phenylacetate, but starting from 3.4 g of methyl (E)-3-nitro-alpha-hydroxyiminophenylacetate and 0.034 g of platinum dioxide in 20 cm3 of methanol. After treatment, 2.9 g of methyl (E)-3-amino-alpha-hydroxyiminophenylacetate are obtained in the form of a solid which is used as such in the subsequent syntheses.

reactant | ethyl (Z)-3-amino-alpha-tert-butoxycarbonylmethoxyimino-phenylacetate | NC=1C=C(C=CC1)/C(/C(=O)OCC)=N/OCC(=O)OC(C)(C)C | C16H22N2O5
reactant | methyl (E)-3-nitro-alpha-hydroxyiminophenylacetate | 3.4 g | [N+](=O)([O-])C=1C=C(C=CC1)\C(\C(=O)OC)=N/O | C9H8N2O5
solvent | methanol | 20 cm3 | CO | CH4O
catalyst | platinum dioxide | 0.034 g | [Pt](=O)=O
product | methyl (E)-3-amino-alpha-hydroxyiminophenylacetate | 2.9 g | NC=1C=C(C=CC1)\C(\C(=O)OC)=N/O | C9H10N2O3
